US07291631B2
Using General Procedure B, reaction of {4-[(1-methyl-1H-benzoimidazol-2-ylmethyl)-amino]-butyl}-carbamic acid tert-butyl ester in CH2Cl2 and 3-methyl-pyridine-2-carbaldehyde in CH2Cl2 with NaBH(OAc)3 gave {4-[(1-methyl-1H-benzoimidazol-2-ylmethyl)-(3-methyl-pyridin-2-ylmethyl)-amino]-butyl}-carbamic acid tert-butyl ester as a white solid. 1H NMR (CDCl3) δ 1.42 (s, 9H), 1.50-1.60 (m, 2H), 1.78 (s, 2H), 2.27 (s, 3H), 2.60 (t, 2H, J=7.4 Hz), 2.96-3.00 (m, 2H), 3.55 (s, 3H), 3.82 (s, 2H), 3.90 (s, 2H), 4.79-4.80 (m, 1H), 7.09-7.13 (m, 1H), 7.23-7.25 (m, 3H), 7.43 (d, 1H, J=7.4 Hz), 7.70-7.73 (m, 1H), 8.40 (d, 1H, J=4.9 Hz). Deprotection with TFA using General Procedure F gave COMPOUND 226 as a white solid. 1H NMR (CDCl3) δ 1.25-1.34 (m, 4H), 1.50-1.60 (m, 2H), 2.28 (s, 3H), 2.52-2.63 (m, 4H), 3.56 (s, 3H), 3.83 (s, 2H), 3.91 (s, 2H), 7.10-7.14 (m, 1H), 7.22-7.25 (m, 3H), 7.43 (d, 1H, J=7.5 Hz), 7.71-7.73 (m, 1H), 8.41 (d, 1H, J=3.6 Hz). 13C NMR (CDCl3) δ 18.55, 23.95, 29.97, 31.79, 42.19, 51.70, 54.99, 59.43, 109.37, 119.91, 122.15, 122.80, 122.95, 133.34, 136.56, 138.44, 142.55, 146.68, 152.48, 157.02. ES-MS m/z 338 (M+H). Anal. Calcd. for C20H27N5.0.1H2O: C, 70.81; H, 8.08; N, 20.64. Found: C, 70.67; H, 8.02; N, 20.73.

reactant | {4-[(1-methyl-1H-benzoimidazol-2-ylmethyl)-amino]-butyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCCCNCC1=NC2=C(N1C)C=CC=C2)=O | C18H28N4O2
reactant | NaBH(OAc)3 | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | 3-methyl-pyridine-2-carbaldehyde | CC=1C(=NC=CC1)C=O | C7H7NO
product | {4-[(1-methyl-1H-benzoimidazol-2-ylmethyl)-(3-methyl-pyridin-2-ylmethyl)-amino]-butyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCCCN(CC1=NC=CC=C1C)CC1=NC2=C(N1C)C=CC=C2)=O | C25H35N5O2
